US08937071B2
Tin(II) chloride dihydrate (449 mg, 1.991 mmol) was added to a solution of 2-methyl-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile (129 mg, 0.498 mmol) in EA (15 mL). The mixture was at 60° C. for 4 h. Then the solution was adjusted to pH=8-9 with 2N NaOH. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, basic condition) to yield a white solid of 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropanenitrile (46.48 mg, 0.203 mmol, 40.7% yield). TLC (PE/EA=1:1, Rf=0.3): 1H NMR (400 MHz, DMSO-d6) δ 8.04-8.17 (m, 1H), 7.31 (d, J=2.43 Hz, 1H), 5.97 (s, 2H), 1.70 (s, 6H); ES-LCMS m/z 230.1 (M+H).

reactant | Tin(II) chloride dihydrate | 1.991 mmol, 449 mg | O.O.[Sn](Cl)Cl
reactant | 2-methyl-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile | 0.498 mmol, 129 mg | CC(C#N)(C)C1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C10H8F3N3O2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | EA | 15 mL | CC(OCC)=O | C4H8O2
product | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)-2-methylpropanenitrile | 0.203 mmol, 46.48 mg, 40.7% yield | NC=1C=C(C(=NC1)C(C#N)(C)C)C(F)(F)F | C10H10F3N3
